US04096253
1-Acetoxy-3-hydroxyestra-1,3,5(10)-trien-17-one (7.6 g, 23 mM) is added to 600 ml of anhydrous acetone in a 3-neck, 1 liter round bottom flask equipped with condenser, magnetic stirring bar, drying tube and pressure-compensated addition funnel. Dimethyl sulfate (3.2 g, 25 mM) is added and the resulting suspension is refluxed for 16 hrs, and then filtered while still warm. The filter cake is washed repeatedly with anhydrous acetone, and the combined filtrates are evaporated in vacuo. The residue is recrystallized from acetone-water to obtain 1-acetoxy-3-methoxyestra-1,3,5(10)-trien-17-one, yield 6.2 g (80%), m.p. 144°-145°. Further recrystallization from CH2Cl2 -hexane gives material of m.p. 150°-151°.

reactant | 1-Acetoxy-3-hydroxyestra-1,3,5(10)-trien-17-one | 23 mM, 7.6 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)O | C20H24O4
reactant | acetone | 600 ml | CC(=O)C | C3H6O
product | 1-acetoxy-3-methoxyestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C21H26O4
